US06794397B2
6-Chloro-N-(4,6-dichloro-5-pyrimidyl)-3-pyridinecarboxamide
The title compound was prepared from 6-chloronicotinoyl chloride and 5-amino-4,6-dichloropyrimidine as a white solid as described in Example 1. 1H NMR (CDCl3): 8.95 (d, J=2.4, 1H), 8.78 (s, 1H), 8.25-8.22 (m, 1H), 7.57 (s, 1H), 7.54 (d, J=8.4, 1H).

reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 5-amino-4,6-dichloropyrimidine | NC=1C(=NC=NC1Cl)Cl | C4H3Cl2N3
product | 6-Chloro-N-(4,6-dichloro-5-pyrimidyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC=1C(=NC=NC1Cl)Cl | C10H5Cl3N4O
